data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(C)cc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1cc(C)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1cc(C)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1cc(C)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(C)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(C)cc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(Cl)cc1", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(Cl)cc1"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(Cl)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(Cl)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(Cl)cc1", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccc(Cl)cc1"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Cl)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Cl)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Cl)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Cl)C(OC)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CC)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(F)c1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1F)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(F)ccc1Cl)C1C2CCC1C2", "products": "[O][C](c1cc(F)ccc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(F)ccc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(F)ccc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(F)ccc1Cl", "products": "OC(=CC1C=CCC1)c1cc(F)ccc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1cc(F)ccc1Cl", "products": "O=C(CC1C=CCC1)c1cc(F)ccc1Cl"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CF)c([Si](C)(C)C)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)CF)c([Si](C)(C)C)c4Cl)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C(C)C)C(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C(C)C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C(C)C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C(C)C)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C(C)C)C2O3)cc1", "products": "CC(C)C1OC2OC1C1C(=O)C21"}, {"reactants": "CC(C)C1OC2OC1C1C(=O)C21.[O-]C", "products": "COC1([O-])C2C3OC(C(C)C)C(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C(C)C)C(O3)C21.CO", "products": "COC(=O)C1CC2OC1OC2C(C)C"}]}
{"conditions": [{"role": "reagent", "text": "ZnI2"}, {"role": "reagent", "text": "EtOH"}], "steps": [{"reactants": "[*]NCCC1=CCCC[C@H]1[Si](C)(C)c1ccccc1.I[Zn-](I)[O+]=CCc1c(Br)ccnc1", "products": "[*][NH+](C(Cc1cnccc1Br)O[Zn-](I)I)CCC2=CCCC[C@H]2[Si](C)(c3ccccc3)C"}, {"reactants": "[*][NH+](C(Cc1cnccc1Br)O[Zn-](I)I)CCC2=CCCC[C@H]2[Si](C)(c3ccccc3)C", "products": "[*]N(CCC1=CCCC[C@H]1[Si](c2ccccc2)(C)C)C([OH+][Zn-](I)I)Cc3c(Br)ccnc3"}, {"reactants": "[*]N(CCC1=CCCC[C@@H]1[Si](C)(C)c1ccccc1)C(Cc1c(Br)ccnc1)[OH+][Zn-](I)I", "products": "[*][N+](CCC1=CCCC[C@H]1[Si](c2ccccc2)(C)C)=CCc3c(Br)ccnc3.O[Zn-](I)I"}, {"reactants": "[*][N+](CCC1=CCCC[C@H]1[Si](c2ccccc2)(C)C)=CCc3c(Br)ccnc3", "products": "[*]N(CC[C+]1C2CCC[C@H]1[Si](c3ccccc3)(C)C)C2Cc4c(Br)ccnc4"}, {"reactants": "[*]N(CC[C+]1C2CCC[C@H]1[Si](c3ccccc3)(C)C)C2Cc4c(Br)ccnc4", "products": "[*]N1CCC2=CCCC[C@@H]2C1Cc3cnccc3Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(F)ccc(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(F)ccc(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(F)ccc(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)ccc(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)ccc(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2c(F)ccc(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
